US05444071
Oxone (920 mg) was added to a solution of 2-ethyl-6-methylthio-4-quinolone (220 mg) in methanol (10 ml) and water (1 ml). The suspension was stirred at ambient temperature for 1 hour then evaporated to give a yellow solid. Saturated sodium bicarbonate solution (10 ml) was added and the resulting precipitate collected by filtration and dried to give 2-ethyl-6-methylsulphonyl-4-quinolone (150 mg) as a light yellow powder, m.p. 283° C.

reactant | Oxone | 920 mg | OOS(=O)[O-].[K+]
reactant | 2-ethyl-6-methylthio-4-quinolone | 220 mg | C(C)C1=NC2=CC=C(C=C2C(C1)=S)C | C12H13NS
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
reactant | methanol | 10 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | 2-ethyl-6-methylsulphonyl-4-quinolone | 150 mg | C(C)C1=NC2=CC=C(C=C2C(C1)=O)S(=O)(=O)C | C12H13NO3S
